US08440673B2
3-Bromo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (1.0 g, 3.27 mmol) and palladium tetrakis(triphenylphosphine) (0.189 g, 0.164 mmol) were added to 25 mL DME, and the mixture was stirred at 60° C. for 10 minutes. 1-Cyclopropylmethyl-1H-pyrazole-5-boronic acid (0.65 g, 3.92 mmol) was added, followed by a solution of K3PO4 (1.39 g, 6.54 mmol) in 5 mL water. The mixture was refluxed for six hours, then cooled to room temperature and partitioned between water and EtOAc. The combined organic layers were washed with water, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified via flash chromatography (3:1 EtOAc/hexanes) to give 1.14 g of 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester, MS (M+H)=348.

reactant | 3-Bromo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 3.27 mmol, 1.0 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)Br)=O | C14H12BrNO2
reactant | DME | 25 mL | COCCOC | C4H10O2
reactant | 1-Cyclopropylmethyl-1H-pyrazole-5-boronic acid | 3.92 mmol, 0.65 g | C1(CC1)CN1N=CC=C1B(O)O | C7H11BN2O2
reactant | K3PO4 | 6.54 mmol, 1.39 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 5 mL | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 0.164 mmol, 0.189 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-(2-cyclopropylmethyl-2H-pyrazol-3-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 1.14 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C=1N(N=CC1)CC1CC1)=O | C21H21N3O2
